US06187774B1
In the same manner as in Example 102 except that 3-(2,4,5,6-tetrahydrocyclopentapyrazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 4 and 1-phenylpiperazine are used instead of 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 1 and 4-(4-chlorophenyl)piperidine, 2,4,5,6-tetrahydro-3-(3-(4-phenylpiperazin-1-yl)propyl)cyclopentapyrazole is obtained.

reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid | N=1NC(=C2CCCCC12)CCC(=O)O | C10H14N2O2
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | 2,4,5,6-tetrahydro-3-(3-(4-phenylpiperazin-1-yl)propyl)cyclopentapyrazole | C1(=CC=CC=C1)N1CCN(CC1)CCCC=1NN=C2C1CCC2 | C19H26N4
